US05346911
Similarly when N-methyl-2-acetyl-9-azabicyclo[4.2.1]nonane, which can be prepared from 2-acetyl-9-azabicyclo[4.2.1]non-2-ene which is commercially available, is substituted for N-methyl-2-acetyl-8-azabicyclo[3.2.1]octane, compound (5), N-methyl-8-azabicyclo[4.2.1]nonan-2-one methyl oxime is obtained.

reactant | N-methyl-2-acetyl-9-azabicyclo[4.2.1]nonane | CN1C2C(CCCC1CC2)C(C)=O | C11H19NO
reactant | 2-acetyl-9-azabicyclo[4.2.1]non-2-ene | C(C)(=O)C=1C2CCC(CCC1)N2 | C10H15NO
reactant | N-methyl-2-acetyl-8-azabicyclo[3.2.1]octane | CN1C2C(CCC1CC2)C(C)=O | C10H17NO
product | N-methyl-8-azabicyclo[4.2.1]nonan-2-one methyl oxime | CON=C1C2N(CC(CCC1)C2)C | C10H18N2O
